US08530468B2
5-(2-Cyclopropyl-1H-imidazo[4,5-c]pyridin-6-ylamino)pyrazine-2-carbonitrile (BB-001)
A mixture of crude 5-(4-(4-methoxybenzylamino)-5-aminopyridin-2-ylamino)pyrazine-2-carbonitrile (0.083 mmol), cyclopropane carboxaldehyde (5.9 mg, 0.083 mmol) and sodium metabisulfite (16 mg, 0.083 mmol) in DMF (1 mL) was heated at 100° C. for 4 hours. Upon cooling, the mixture was partitioned between ethyl acetate and water. The organic layer was washed with brine, dried (Na2SO4) and concentrated to a light brown solid. The solid was stirred at 65° C. with trifluoroacetic acid. Upon completion of the reaction, the mixture was concentrated. Preparative HPLC gave the title compound (3.7 mg, 16%). 1H NMR (d6-DMSO, 400 MHz) δ 12.60 (br s, 1H), 10.75 (br s, 1H), 8.80 (s, 1H), 8.75 (s, 1H), 8.50 (s, 1H), 8.10 (s, 1H), 2.10-2.20 (m, 1H), 1.00-1.20 (m, 4H). LCMS (2) Rt=1.68 min; m/z (ESI−) 276 (M−H); (ESI+) 278 (MH+).

reactant | 5-(4-(4-methoxybenzylamino)-5-aminopyridin-2-ylamino)pyrazine-2-carbonitrile | 0.083 mmol | COC1=CC=C(CNC2=CC(=NC=C2N)NC=2N=CC(=NC2)C#N)C=C1 | C18H17N7O
reactant | cyclopropane carboxaldehyde | 0.083 mmol, 5.9 mg | C1(CC1)C=O | C4H6O
reactant | sodium metabisulfite | 0.083 mmol, 16 mg | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 5-(2-Cyclopropyl-1H-imidazo[4,5-c]pyridin-6-ylamino)pyrazine-2-carbonitrile | 3.7 mg, 16% | C1(CC1)C=1NC2=C(C=NC(=C2)NC=2N=CC(=NC2)C#N)N1 | C14H11N7
